US06147255
(b) N-Methyl-4-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-naphthyl)-2-pyrrolecarboxaldehyde
In a similar manner to Example 3(b), by reaction of 3 g (12.1 mmol) of 3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-naphthylboronic acid with 1.9 g (10.1 mmol) of N-methyl-4-bromo-2-pyrrolecarboxaldehyde, 1.85 g (59%) of the expected product are obtained in the form of a pale yellow oil.

reactant | 3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-naphthylboronic acid | 12.1 mmol, 3 g | CC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)B(O)O | C15H23BO2
reactant | N-methyl-4-bromo-2-pyrrolecarboxaldehyde | 10.1 mmol, 1.9 g | CN1C(=CC(=C1)Br)C=O | C6H6BrNO
product | N-Methyl-4-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-naphthyl)-2-pyrrolecarboxaldehyde | 1.85 g, 59% | CN1C(=CC(=C1)C1=CC=2C(CCC(C2C=C1C)(C)C)(C)C)C=O | C21H27NO
